2174-11-22 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC ARREST - At [**2174-11-21**] 11:12 AM chest compressions ongoing
   while pt came in the door
 INVASIVE VENTILATION - START [**2174-11-21**] 11:12 AM
 PICC LINE - START [**2174-11-21**] 11:15 AM
 MULTI LUMEN - START [**2174-11-21**] 11:15 AM
 ARTERIAL LINE - START [**2174-11-21**] 11:35 AM
 NASAL SWAB - At [**2174-11-21**] 11:43 AM admission MRSA swab
 EEG - At [**2174-11-21**] 04:00 PM
   - arctic sun protocol was initiated
   - hypertension to 200's SBP given IV hydral 10mg, then started nitro
   gtt.
   - CK is flat, trop is mildly elevated (likely from leak/compression).
   - MRI of spine: 2.5 cm (CC) relatively thick rim-enhancing fluid
   collection, dorsal to and significantly compressing the thecal sac and
   centered at the L5 level - epidural abscess. At least two small
   rim-enhancing fluid collections the right paraspinal muscles, likely
   representing small focal abscess, which may relate to septic
   arthritis of the right L4-L5 facet joint. (neurosurgery is aware).
   - on empiric abx cefepime, vanco, flagyl, clarithromycin.
   - low urine output 10-20CC per hour.
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2174-11-21**] 03:45 PM
   Metronidazole - [**2174-11-21**] 11:00 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Lidocaine - 2 mg/min
   Other ICU medications:
   Hydralazine - [**2174-11-21**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 43 (43 - 141) bpm
   BP: 98/51(67) {82/40(52) - 187/104(139)} mmHg
   RR: 18 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 110.5 kg (admission): 105.5 kg
             Total In:
                                                                  2,356 mL
                                                                    736 mL
   PO:
             TF:
   IVF:
                                                                  2,236 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    160 mL
   Urine:
                                                                    280 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,076 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.45/36/170/22/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General: Intubated, nonresponsive to pain.
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Scarce inspiratory crackles at the bases, no wheezes, or ronchi
   CV: Irregularly irregular, normal S1 + S2, no murmurs, rubs, gallops,
   well healed CABG scar
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: severe peripheral vascular disease, multiple toe amputations,
   small ulcer near nailbed on right second toe, 2 x 2 cm healing ulcer on
   medial plantar right foot, decreased sensation in lower extremities
   throughout. Right shoulder with mild erythema
   Labs / Radiology
   189 K/uL
   9.0 g/dL
   108 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.8 mEq/L
   20 mg/dL
   109 mEq/L
   139 mEq/L
   27.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2174-11-21**]  01:20 PM
                             [**2174-11-21**]  04:29 PM
                             [**2174-11-21**]  04:37 PM
                             [**2174-11-21**]  05:00 PM
                             [**2174-11-21**]  08:12 PM
                             [**2174-11-21**]  08:17 PM
                             [**2174-11-21**]  11:00 PM
                             [**2174-11-21**]  11:11 PM
                            [**2174-11-22**]  03:11 AM
                            [**2174-11-22**]  03:22 AM
   WBC
   10.4
   5.5
   Hct
   28.8
   31.2
   29.4
   27.7
   Plt
   221
   189
   Cr
   1.0
   1.1
   TropT
   0.14
   0.12
   TCO2
   19
   24
   23
   23
   26
   Glucose
   150
   152
   108
   Other labs: PT / PTT / INR:17.8/91.9/1.6, CK / CKMB /
   Troponin-T:50/4/0.12, ALT / AST:[**4-7**], Alk Phos / T Bili:63/0.3, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:262 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   78 year old male with type II diabetes, severe peripheral vascular
   disease, coronary artery disease s/p CABG and atrial fibrillation  who
   is transfered to CCU after a cardiac arrest.
   .
   # Cardiac arrest: Most likely ACS leading to anteroseptal infarction
   (given TTE findings and new onset VT). Alternative precipitants for his
   VT are unlikely and include anesthetic for his MRI procedure,
   electrolyte abdonormalities or decompensated LV dysfunction.
   - defer cath for now given multiple comorbidities
   - D/C lidocaine ggt for VT control
   - replete Mg, Ca, K prn and correct any acidosis
   - arctic sun protocol
   - monitor for coagulopathy, electrolyte abnormalities & bleeding
   .
   # Presumed ACS:  Echo after VT arrest showed new hypokinetic areas in
   anterior septal.  Possible new area of infarct that precipitated the VT
   arrest.  Prior to his arrest he had not been complaining of active
   chest pain. He had been continued on simvastatin, metoprolol tartrate,
   and lisinopril but his ASA was held due to GI bleed.
   - f/u final TTE results
   - arctic sun treatment protocol
   - medical management with ASA and heparin; continue statin; will add on
   bb and ACEi when his BP stabilizes. Will consider plavix, but he's at a
   significant risk of bleeding at this time.
   - follow CE
 no increase x 3
   .
   # Hypotension: Differential includes cardiogenic shock in setting of VT
   or medication adverse event (lidocain, amiodarone). Required pressor
   (initially DA then phenylephrine) initially but now stable without
   pressors.
   - Goal MAP>60 with phenylephrine
   .
   .
   .
   .
   # Neurological signs: Unresponsive to pain or verbal stimuli. currently
   undergoing arctic sun protocol will need to monitor for neurological
   improvement.
   - neuro c/s
   - continous EEG study
   - currently on fentanyl and versed for sedation
   - Head CT when warm
   .
   # Bacteremia/epidural abscess: BCx positive on [**11-6**] for MSSA, neg
   daily since, last BCx [**2174-11-12**]. Source unclear but suspect skin ulcers.
   MRI positive for 1 cm abscess, neurosurgery has been followed.
   - f/u with neurosurgery
   - Change from cefazolin to vanc/cefephime
   - continue flagyl and clarythromicin for presumtive h pylori
   .
   # GI bleed: s/p GIB on [**2174-11-15**], HCT stable since then. Know peptic
   ulcers that are healing. Was supposed to have colonoscopy today but
   this postponed for cardiac arrest.
   - Transfuse for Hct<30
   - IV access pIV and triple lumen
   - T+C+C
   - Pantoprazole ggt
   - Since H. Pylori serologies equivocal, continue 2 week course of
   metronidazoe and clarithromycin (change to amox) (Now Day 5, started
   [**2174-11-17**])
   - Monitor for bleeding
   - Guaic GT, Stools
   .
   # Peripheral Vascular Disease: s/p multiple surgeries, currently with
   ulcer on medial plantar right foot previously followed by podiatry and
   vascular.
   - Wound care per podiatry/vascular recs - clean dry dressing
   .
   #  Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   - Diabetic diet, RISS
   .
   # ? Mesothelioma: Pleural thickening (in the setting of prior asbestos
   exposure) noted on [**2174-11-6**] Chest CT, concerning for mesothelioma.
   Bilateral calcified pleural plaques consistent with possible asbestosis
   on CXR [**2174-11-17**].
   - Follow-up with Thoracic Surgery, Dr. [**First Name (STitle) **] as outpatient
   .
   # Depression: Given multiple medical issues and procedures, coping may
   be difficult.
   - Continue celexa 20 mg daily
   - Ask social work to check-in
   .
   FEN: Diabetic diet with soft consistency and thin liquids ([**2-14**]
   dentures, passed video swallow) as well as boost glucose supplements,
   NPO after midnight for colonoscopy tomorrow, lytes PRN, IVF/blood
   products PRN, nutrition following
   - AM K = 3.6 -> 40 meq K over 4h through PICC
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   DVT ppx: Heparin SC, holding coumadin
   -Bowel regimen: senna, colace, bisacodyl
   -GI PPx: IV PPI
   -Pain management with: percocet, acetaminophen, and lidocaine patch PRN
   .
   ACCESS: PICC placed [**11-9**]
   .
   CODE: Confirmed full by primary medicine team
   .
   COMM: [**Name (NI) 53**], Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].  Also, pls contact
   PCP [**First Name8 (NamePattern2) 6585**] [**Last Name (NamePattern1) 6586**] ([**Company 319**]) or [**Name (NI) 263**] [**Last Name (NamePattern1) 10789**] (NP). (Will call PCP when [**Name Initial (PRE) **]/c
   to rehab.), previously intern and resident ([**Numeric Identifier 10790**], [**Numeric Identifier 10791**])
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-21**] 11:15 AM
   Multi Lumen - [**2174-11-21**] 11:15 AM
   Arterial Line - [**2174-11-21**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-11-23 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Neuro recs:
   CT head in AM once warm, I discussed this with CT tech
   - CVP down to 5 around noon UOP 15cc/ hr after 1L NS UOP upto >45,
   CVP=11
   - PM - CBC H+H stable, Lytes normal!
   - ABX narrowed to Cefazolin as per ID recs
   - H. Pylori eradication changed to remove Clarithromycin
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2174-11-22**] 09:00 AM
   Cefipime - [**2174-11-22**] 04:00 PM
   Cefazolin - [**2174-11-23**] 12:00 AM
   Metronidazole - [**2174-11-23**] 06:00 AM
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 900 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 71 (40 - 76) bpm
   BP: 123/61(82) {86/41(57) - 168/85(112)} mmHg
   RR: 19 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 105.5 kg
   Height: 71 Inch
    CVP: 11 (6 - 12)mmHg
   Total In:
                                                                  4,454 mL
                                                                    940 mL
   PO:
   TF:
                                                                    238 mL
                                                                    326 mL
   IVF:
                                                                  3,887 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                    727 mL
                                                                    175 mL
   Urine:
                                                                    727 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,727 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/39/130/23/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 217
   Physical Examination
   Awake, spontaneous eye opening, moving arms
   Labs / Radiology
   222 K/uL
   10.2 g/dL
   89 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.6 mEq/L
   19 mg/dL
   110 mEq/L
   140 mEq/L
   30.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2174-11-21**]  11:00 PM
                             [**2174-11-21**]  11:11 PM
                            [**2174-11-22**]  03:11 AM
                            [**2174-11-22**]  03:22 AM
                            [**2174-11-22**]  10:11 AM
                            [**2174-11-22**]  04:38 PM
                            [**2174-11-22**]  05:02 PM
                            [**2174-11-22**]  10:14 PM
                            [**2174-11-23**]  03:46 AM
                            [**2174-11-23**]  03:53 AM
   WBC
   5.5
   7.5
   Hct
   29.4
   27.7
   29.9
   31.2
   30.3
   Plt
   189
   222
   Cr
   1.1
   1.0
   1.2
   TropT
   0.12
   TCO2
   23
   26
   22
   23
   24
   Glucose
   108
   91
   89
   Other labs: PT / PTT / INR:20.2/49.3/1.9, CK / CKMB /
   Troponin-T:50/4/0.12, ALT / AST:[**4-7**], Alk Phos / T Bili:63/0.3, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:262 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   78 year old male with type II diabetes, severe peripheral vascular
   disease, coronary artery disease s/p CABG and atrial fibrillation  who
   is transfered to CCU after a cardiac arrest.
   .
   # Cardiac arrest: Most likely ACS leading to anteroseptal infarction
   (given TTE findings and new onset VT). Alternative precipitants for his
   VT are unlikely and include anesthetic for his MRI procedure,
   electrolyte abnormalities or decompensated LV dysfunction.
   - defer cath for now given multiple comorbidities, however may be
   necessary for ICD in future
   - d/c lidocaine gtt for VT control
   - replete Mg, Ca, K prn and correct any acidosis
   - arctic sun protocol; patient now warmed
   - monitor for coagulopathy, electrolyte abnormalities & bleeding
   .
   # Presumed ACS:  Echo after VT arrest showed new hypokinetic areas in
   anterior septal.  However, no EKG changes or significant elevation in
   cardiac enzymes that would be worrisome for ACS.  Prior to his arrest
   he had not been complaining of active chest pain. He had been continued
   on simvastatin, metoprolol tartrate, and lisinopril but his ASA was
   held due to GI bleed.
   - f/u final TTE results
   - medical management with ASA and heparin; continue statin; will add on
   bb and ACEi when his BP stabilizes. Will consider plavix, but he's at a
   significant risk of bleeding at this time.
   - follow CE
  Peaked yesterday
   .
   # Hypotension: Differential includes cardiogenic shock in setting of VT
   or medication adverse event (lidocaine, amiodarone). Required pressor
   (initially DA then phenylephrine).
   - Goal MAP > 60 with phenylephrine
   .
   # Neurological signs: Unresponsive to pain or verbal stimuli. currently
   undergoing arctic sun protocol will need to monitor for neurological
   improvement.
   - neuro c/s to be updated re: UM function without LE function
   - continous EEG study
   - currently on fentanyl and versed for sedation
 sedation holiday
   - Head CT when warm
   .
   # Bacteremia/epidural abscess: BCx positive on [**11-6**] for MSSA, neg
   daily since, last BCx [**2174-11-12**]. Source unclear but suspect skin ulcers.
   MRI positive for 1 cm abscess, neurosurgery has been followed.
   - f/u with neurosurgery
   - Change from cefazolin to vanc/cefephime
   - continue flagyl and clarythromicin for presumtive h pylori d6/14 last
   dose 11/19
   .
   # GI bleed: s/p GIB on [**2174-11-15**], HCT stable since then. Know peptic
   ulcers that are healing. Was supposed to have colonoscopy today but
   this postponed for cardiac arrest.
   - Transfuse for Hct<30
   - IV access pIV and triple lumen
   - T+C+C
   - Pantoprazole gtt
   - Since H. Pylori serologies equivocal, continue 2 week course of
   metronidazole and tetracycline (Now Day 6, started [**2174-11-17**])
   - Monitor for bleeding
   - Guaiac GT, Stools
   .
   # Peripheral Vascular Disease: s/p multiple surgeries, currently with
   ulcer on medial plantar right foot previously followed by podiatry and
   vascular.
   - Wound care per podiatry/vascular recs - clean dry dressing
   .
   #  Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   - Diabetic diet, RISS
   .
   # ? Mesothelioma: Pleural thickening (in the setting of prior asbestos
   exposure) noted on [**2174-11-6**] Chest CT, concerning for mesothelioma.
   Bilateral calcified pleural plaques consistent with possible asbestosis
   on CXR [**2174-11-17**].
   - Follow-up with Thoracic Surgery, Dr. [**First Name (STitle) **] as outpatient
   .
   # Depression: Given multiple medical issues and procedures, coping may
   be difficult.
   - Continue celexa 20 mg daily
   - Ask social work to check-in
   .
   FEN: tube feeds
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   DVT ppx: Heparin SC, holding coumadin
   -Bowel regimen: senna, colace, bisacodyl
   -GI PPx: IV PPI
   -Pain management with: percocet, acetaminophen, and lidocaine patch PRN
   .
   ACCESS:
 PICC LINE - START [**2174-11-21**] 11:15 AM
 MULTI LUMEN - START [**2174-11-21**] 11:15 AM
 ARTERIAL LINE - START [**2174-11-21**] 11:35 AM
   .
   CODE: Confirmed full by primary medicine team
   .
   COMM: [**Name (NI) 53**], Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].  Also, pls contact
   PCP [**First Name8 (NamePattern2) 6585**] [**Last Name (NamePattern1) 6586**] ([**Company 319**]) or [**Name (NI) 263**] [**Last Name (NamePattern1) 10789**] (NP). (Will call PCP when [**Name Initial (PRE) **]/c
   to rehab.), previously intern and resident ([**Numeric Identifier 10790**], [**Numeric Identifier 10791**])
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2174-11-22**] 01:30 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-21**] 11:15 AM
   Multi Lumen - [**2174-11-21**] 11:15 AM
   Arterial Line - [**2174-11-21**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10807**].
   I would add the following remarks:
   History
   More alert and responsive.  Cooling protocol completed.
   Maintaining NSR.
   urine output adeq with stable Cr 1.2.
   Physical Examination
   Moving upper ext but not moving legs.
   Medical Decision Making
   Head CT.
   Move to extubation.
   Careful neuro exam with concern re epidural abscess.
   On Cefazolin.
   EP input appreciated and if recovers will need consideration of AICD.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2174-11-23**] 10:57 ------

2174-11-24 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2174-11-23**] 07:21 PM
   - NSGY: might take to OR Friday if patient medically stable
   - did excellent on pressure support trial, extubated without difficulty
   or complication
   - responsive to questioning with nodding
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2174-11-22**] 09:00 AM
   Cefipime - [**2174-11-22**] 04:00 PM
   Cefazolin - [**2174-11-24**] 12:00 AM
   Metronidazole - [**2174-11-24**] 12:00 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2174-11-24**] 06:15 AM
   Hydralazine - [**2174-11-24**] 07:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.4
   HR: 63 (61 - 108) bpm
   BP: 172/77(112) {95/43(66) - 172/82(115)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 105.5 kg
   Height: 71 Inch
    CVP: 10 (7 - 18)mmHg
   Total In:
                                                                  2,519 mL
                                                                    288 mL
   PO:
   TF:
                                                                    762 mL
   IVF:
                                                                  1,376 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    685 mL
   Urine:
                                                                  1,485 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,034 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 696 (696 - 696) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.34/43/118/21/-2
   Ve: 12.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   10.2 g/dL
   67 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.7 mEq/L
   19 mg/dL
   111 mEq/L
   137 mEq/L
   30.0 %
   6.9 K/uL
        [image002.jpg]
                            [**2174-11-22**]  10:11 AM
                            [**2174-11-22**]  04:38 PM
                            [**2174-11-22**]  05:02 PM
                            [**2174-11-22**]  10:14 PM
                            [**2174-11-23**]  03:46 AM
                            [**2174-11-23**]  03:53 AM
                            [**2174-11-23**]  04:49 PM
                            [**2174-11-23**]  11:43 PM
                            [**2174-11-24**]  03:45 AM
                            [**2174-11-24**]  04:49 AM
   WBC
   7.5
   6.9
   Hct
   29.9
   31.2
   30.3
   33
   30.0
   Plt
   222
   198
   Cr
   1.0
   1.2
   1.1
   TCO2
   22
   23
   24
   23
   23
   24
   Glucose
   91
   89
   67
   Other labs: PT / PTT / INR:17.2/60.0/1.5, CK / CKMB /
   Troponin-T:50/4/0.12, ALT / AST:[**4-7**], Alk Phos / T Bili:63/0.3, Lactic
   Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:262 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   78 year old male with type II diabetes, severe peripheral vascular
   disease, coronary artery disease s/p CABG and atrial fibrillation  who
   is transfered to CCU after a cardiac arrest.
   .
   # Cardiac arrest: Most likely ACS leading to anteroseptal infarction
   (given TTE findings and new onset VT). Alternative precipitants for his
   VT are unlikely and include anesthetic for his MRI procedure,
   electrolyte abnormalities or decompensated LV dysfunction.
   - defer cath for now given multiple comorbidities, however may be
   necessary for ICD in future
   - d/c lidocaine gtt for VT control
   - replete Mg, Ca, K prn and correct any acidosis
   - arctic sun protocol; patient now warmed
   - monitor for coagulopathy, electrolyte abnormalities & bleeding
   .
   # Presumed ACS:  Echo after VT arrest showed new hypokinetic areas in
   anterior septal.  However, no EKG changes or significant elevation in
   cardiac enzymes that would be worrisome for ACS.  Prior to his arrest
   he had not been complaining of active chest pain. He had been continued
   on simvastatin, metoprolol tartrate, and lisinopril but his ASA was
   held due to GI bleed.
   - f/u final TTE results
   - medical management with ASA and heparin; continue statin; will add on
   bb and ACEi when his BP stabilizes. Will consider plavix, but he's at a
   significant risk of bleeding at this time.
   - follow CE
  Peaked yesterday
   .
   # Hypotension: Differential includes cardiogenic shock in setting of VT
   or medication adverse event (lidocaine, amiodarone). Required pressor
   (initially DA then phenylephrine).
   - Goal MAP > 60 with phenylephrine
   .
   # Neurological signs: Unresponsive to pain or verbal stimuli. currently
   undergoing arctic sun protocol will need to monitor for neurological
   improvement.
   - neuro c/s to be updated re: UM function without LE function
   - continous EEG study
   - currently on fentanyl and versed for sedation
 sedation holiday
   - Head CT when warm
   .
   # Bacteremia/epidural abscess: BCx positive on [**11-6**] for MSSA, neg
   daily since, last BCx [**2174-11-12**]. Source unclear but suspect skin ulcers.
   MRI positive for 1 cm abscess, neurosurgery has been followed.
   - f/u with neurosurgery
   - Change from cefazolin to vanc/cefephime
   - continue flagyl and clarythromicin for presumtive h pylori d6/14 last
   dose 11/19
   .
   # GI bleed: s/p GIB on [**2174-11-15**], HCT stable since then. Know peptic
   ulcers that are healing. Was supposed to have colonoscopy today but
   this postponed for cardiac arrest.
   - Transfuse for Hct<30
   - IV access pIV and triple lumen
   - T+C+C
   - Pantoprazole gtt
   - Since H. Pylori serologies equivocal, continue 2 week course of
   metronidazole and tetracycline (Now Day 6, started [**2174-11-17**])
   - Monitor for bleeding
   - Guaiac GT, Stools
   .
   # Peripheral Vascular Disease: s/p multiple surgeries, currently with
   ulcer on medial plantar right foot previously followed by podiatry and
   vascular.
   - Wound care per podiatry/vascular recs - clean dry dressing
   .
   #  Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   - Diabetic diet, RISS
   .
   # ? Mesothelioma: Pleural thickening (in the setting of prior asbestos
   exposure) noted on [**2174-11-6**] Chest CT, concerning for mesothelioma.
   Bilateral calcified pleural plaques consistent with possible asbestosis
   on CXR [**2174-11-17**].
   - Follow-up with Thoracic Surgery, Dr. [**First Name (STitle) **] as outpatient
   .
   # Depression: Given multiple medical issues and procedures, coping may
   be difficult.
   - Continue celexa 20 mg daily
   - Ask social work to check-in
   .
   FEN: tube feeds
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   DVT ppx: Heparin SC, holding coumadin
   -Bowel regimen: senna, colace, bisacodyl
   -GI PPx: IV PPI
   -Pain management with: percocet, acetaminophen, and lidocaine patch PRN
   .
   ACCESS:
 PICC LINE - START [**2174-11-21**] 11:15 AM
 MULTI LUMEN - START [**2174-11-21**] 11:15 AM
 ARTERIAL LINE - START [**2174-11-21**] 11:35 AM
   .
   CODE: Confirmed full by primary medicine team
   .
   COMM: [**Name (NI) 53**], Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].  Also, pls contact
   PCP [**First Name8 (NamePattern2) 6585**] [**Last Name (NamePattern1) 6586**] ([**Company 319**]) or [**Name (NI) 263**] [**Last Name (NamePattern1) 10789**] (NP). (Will call PCP when [**Name Initial (PRE) **]/c
   to rehab.), previously intern and resident ([**Numeric Identifier 10790**], [**Numeric Identifier 10791**])
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-21**] 11:15 AM
   Multi Lumen - [**2174-11-21**] 11:15 AM
   Arterial Line - [**2174-11-21**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-11-25 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Repeat Speech and Swallow consult:Reccommend Initiating PO diet of
   nectar thick liquids and puree. Pt to be upright and supervised when
   taking PO.
   - Pt was NPO overnight.
   - Beta Blocker dose increased to 25 mg po q6h.
   - NSGY: still following, may take to OR if IR-guided drainage fails
   - Mental Status improved: oriented*3.
   - Coags in am.
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2174-11-22**] 09:00 AM
   Cefipime - [**2174-11-22**] 04:00 PM
   Metronidazole - [**2174-11-24**] 12:00 AM
   Cefazolin - [**2174-11-24**] 04:30 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2174-11-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-25**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 64 (58 - 93) bpm
   BP: 107/55(74) {97/42(61) - 190/97(136)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.8 kg (admission): 105.5 kg
   Height: 71 Inch
    CVP: 13 (2 - 15)mmHg
   Total In:
                                                                  1,098 mL
                                                                    335 mL
   PO:
                                                                    280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    793 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    340 mL
   Urine:
                                                                  2,965 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,867 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GEN: NAD, alert, orientedx3
   CV: RRR s mrg
   RESP: CTAB s rwr
   ABD: +BS, S, NT/ND
   EXT: cool, 1+ pulses distally
   Labs / Radiology
   186 K/uL
   10.0 g/dL
   69 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.5 mEq/L
   17 mg/dL
   111 mEq/L
   139 mEq/L
   28.7 %
   6.4 K/uL
        [image002.jpg]
                            [**2174-11-22**]  05:02 PM
                            [**2174-11-22**]  10:14 PM
                            [**2174-11-23**]  03:46 AM
                            [**2174-11-23**]  03:53 AM
                            [**2174-11-23**]  04:49 PM
                            [**2174-11-23**]  11:43 PM
                            [**2174-11-24**]  03:45 AM
                            [**2174-11-24**]  04:49 AM
                            [**2174-11-24**]  10:00 PM
                            [**2174-11-25**]  04:54 AM
   WBC
   7.5
   6.9
   6.4
   Hct
   30.3
   33
   30.0
   28.7
   Plt
   222
   198
   186
   Cr
   1.2
   1.1
   1.1
   TCO2
   22
   23
   24
   23
   23
   24
   Glucose
   89
   67
   65
   69
   Other labs: PT / PTT / INR:18.0/55.4/1.6, CK / CKMB /
   Troponin-T:50/4/0.12, ALT / AST:[**4-7**], Alk Phos / T Bili:63/0.3, Lactic
   Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:262 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78 year old male with type II diabetes, severe peripheral vascular
   disease, coronary artery disease s/p CABG and atrial fibrillation  who
   is transfered to CCU after a cardiac arrest.
   .
   # Cardiac arrest: Unclear etiology.  Unlikely to be ACS in the setting
   of flat CE, no EKG changes, no c/o chest pain.  Alternative
   precipitants for his VT could include anesthetic for his MRI procedure,
   electrolyte abnormalities or decompensated LV dysfunction.
   - s/p arctic sun protocol; patient now warmed
   - monitor for coagulopathy, electrolyte abnormalities & bleeding
   - once other comorbidities have stabilized, may benefit from ICD
   placement
   .
   # Neurological signs: Improved s/p extubation and completion of arctic
   sun protocol.  Now appears at baseline.
   - head CT unremarkable
   .
   # Bacteremia/epidural abscess: BCx positive on [**11-6**] for MSSA, neg
   daily since, last BCx [**2174-11-12**]. Source unclear but suspect skin ulcers.
   MRI positive for 1 cm abscess, neurosurgery has been followed.
   - plan is for IR-guided drainage of abscess today.  If attempt fails,
   NSGY will consider taking patient to OR.  Per discussion with team and
   attending, patient is a moderate risk candidate for a moderate risk
   surgery and does not warrant stress test or cardiac catherization
   pre-operatively for clearance.
   - on cefazolin
   .
   # atrial fibrillation: Patient in chronic atrial fibrillation, came
   back into sinus rhythm after shock s/p cardiac arrest.  Was started on
   heparin gtt with plan for 4 weeks of anticoagulation s/p conversion,
   but given patient
s h/o GIB it was decided that we would instead treat
   with full-strength ASA (from 81 mg) for 4 weeks, with plan to lower
   down to 81 mg after 4 weeks for prevention of CVA.
   .
   # GI bleed: s/p GIB on [**2174-11-15**], HCT stable since then. Know peptic
   ulcers that are healing. Was supposed to have colonoscopy before
   cardiac arrest.
   - IV access pIV and triple lumen
   - T+C+C
   - switch to IV bid PPI
   - Since H. Pylori serologies equivocal, continue 2 week course of
   metronidazole and tetracycline (Now Day 9, started [**2174-11-17**]).  Stopped
   clarithromycin for QTc prolongation.
   - Monitor for bleeding
   - Guaiac GT, Stools
   .
   # Peripheral Vascular Disease: s/p multiple surgeries, currently with
   ulcer on medial plantar right foot previously followed by podiatry and
   vascular.
   - Wound care per podiatry/vascular recs - clean dry dressing
   .
   #  Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   - Diabetic diet, RISS
   .
   # ? Mesothelioma: Pleural thickening (in the setting of prior asbestos
   exposure) noted on [**2174-11-6**] Chest CT, concerning for mesothelioma.
   Bilateral calcified pleural plaques consistent with possible asbestosis
   on CXR [**2174-11-17**].
   - Follow-up with Thoracic Surgery, Dr. [**First Name (STitle) **] as outpatient
   .
   # Depression: Given multiple medical issues and procedures, coping may
   be difficult.
   - Continue celexa 20 mg daily
   - Ask social work to check-in
   .
   FEN: tube feeds
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   DVT ppx: pneumoboots
   Bowel regimen: senna, colace, bisacodyl
   GI PPx: IV PPI [**Hospital1 **]
   Pain management with: dilaudid PRN
   .
   ACCESS:
 PICC LINE - START [**2174-11-21**] 11:15 AM
 MULTI LUMEN - START [**2174-11-21**] 11:15 AM
 ARTERIAL LINE - START [**2174-11-21**] 11:35 AM
   .
   CODE: Confirmed full by primary medicine team
   .
   COMM: [**Name (NI) 53**], Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].  Also, pls contact
   PCP [**First Name8 (NamePattern2) 6585**] [**Last Name (NamePattern1) 6586**] ([**Company 319**]) or [**Name (NI) 263**] [**Last Name (NamePattern1) 10789**] (NP). (Will call PCP when [**Name Initial (PRE) **]/c
   to rehab.), previously intern and resident ([**Numeric Identifier 10790**], [**Numeric Identifier 10791**])
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-21**] 11:15 AM
   Multi Lumen - [**2174-11-21**] 11:15 AM
   Arterial Line - [**2174-11-21**] 11:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-11-26 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2174-11-25**] 07:28 PM
 MULTI LUMEN - STOP [**2174-11-25**] 10:39 PM
   - I/R procedure yielded 1cc of purulent/bloody fluid
   - plan to undergo NSGY procedure Monday:  per NSGY: D/C SQ Heparin
   Sunday PM, doesnt need to be NPO after midnight, they will give us 6
   hours warning
   - Switched pain meds to oxycodone to attempt to get longer activity
   - Flagyl changed to IV to lessen pill burden
   - Triple Lumen from code pulled
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2174-11-24**] 12:00 AM
   Cefazolin - [**2174-11-25**] 11:50 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2174-11-25**] 04:00 PM
   Hydromorphone (Dilaudid) - [**2174-11-26**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 61 (57 - 86) bpm
   BP: 144/76(92) {131/63(85) - 158/80(93)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.9 kg (admission): 105.5 kg
   Height: 71 Inch
    CVP: 12 (5 - 16)mmHg
   Total In:
                                                                  1,061 mL
                                                                    131 mL
   PO:
                                                                    390 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    671 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    710 mL
   Urine:
                                                                  1,590 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -529 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: NAD, alert, orientedx3
   CV: RRR s mrg
   RESP: CTAB s rwr
   ABD: +BS, S, NT/ND
   EXT: cool, 1+ pulses distally
   Labs / Radiology
   192 K/uL
   9.5 g/dL
   76 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   13 mg/dL
   106 mEq/L
   138 mEq/L
   28.7 %
   6.0 K/uL
        [image002.jpg]
                            [**2174-11-22**]  10:14 PM
                            [**2174-11-23**]  03:46 AM
                            [**2174-11-23**]  03:53 AM
                            [**2174-11-23**]  04:49 PM
                            [**2174-11-23**]  11:43 PM
                            [**2174-11-24**]  03:45 AM
                            [**2174-11-24**]  04:49 AM
                            [**2174-11-24**]  10:00 PM
                            [**2174-11-25**]  04:54 AM
                            [**2174-11-26**]  04:33 AM
   WBC
   7.5
   6.9
   6.4
   6.0
   Hct
   30.3
   33
   30.0
   28.7
   28.7
   Plt
   222
   198
   186
   192
   Cr
   1.2
   1.1
   1.1
   1.0
   TCO2
   23
   24
   23
   23
   24
   Glucose
   89
   67
   65
   69
   76
   Other labs: PT / PTT / INR:19.5/33.5/1.8, CK / CKMB /
   Troponin-T:50/4/0.12, ALT / AST:[**4-7**], Alk Phos / T Bili:63/0.3, Lactic
   Acid:0.6 mmol/L, Albumin:2.3 g/dL, LDH:262 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78 year old male with type II diabetes, severe peripheral vascular
   disease, coronary artery disease s/p CABG and atrial fibrillation  who
   is transfered to CCU after a cardiac arrest.
   .
   # Cardiac arrest: Unclear etiology.  Unlikely to be ACS in the setting
   of flat CE, no EKG changes, no c/o chest pain.  Alternative
   precipitants for his VT could include anesthetic for his MRI procedure,
   electrolyte abnormalities or decompensated LV dysfunction.
   - s/p arctic sun protocol; patient now warmed
   - monitor for coagulopathy, electrolyte abnormalities & bleeding
   - once other comorbidities have stabilized, may benefit from ICD
   placement in the outpatient setting
   .
   # Neurological signs: Improved s/p extubation and completion of arctic
   sun protocol.  Now appears at baseline.
   - head CT unremarkable
   .
   # Bacteremia/epidural abscess: BCx positive on [**11-6**] for MSSA, neg
   daily since, last BCx [**2174-11-12**]. Source unclear but suspect skin ulcers.
   MRI positive for 1 cm abscess, neurosurgery has been followed.
   - plan is for IR-guided drainage of abscess today.  If attempt fails,
   NSGY will consider taking patient to OR.  Per discussion with team and
   attending, patient is a moderate risk candidate for a moderate risk
   surgery and does not warrant stress test or cardiac catherization
   pre-operatively for clearance.
   - on cefazolin
   - NSG on monday
   .
   # atrial fibrillation: Patient in chronic atrial fibrillation, came
   back into sinus rhythm after shock s/p cardiac arrest.  Was started on
   heparin gtt with plan for 4 weeks of anticoagulation s/p conversion,
   but given patient
s h/o GIB, we are changing to 81 ASA
   .
   # elevated INR: Patient noted to have uptrending INR during
   hospitalization despite being off coumadin since admission.  [**Month (only) 60**] be [**2-14**]
   nutritional deficiencies.  Will give PO Vit K.
   .
   # GI bleed: s/p GIB on [**2174-11-15**], HCT stable since then. Know peptic
   ulcers that are healing. Was supposed to have colonoscopy before
   cardiac arrest.
   - IV access pIV and triple lumen
   - T+C+C
   - IV bid PPI
   - Since H. Pylori serologies equivocal, continue 2 week course of
   metronidazole and tetracycline (Now Day 10, started [**2174-11-17**]).  Stopped
   clarithromycin for QTc prolongation.
   - Monitor for bleeding
   - Guaiac GT, Stools
   .
   # Peripheral Vascular Disease: s/p multiple surgeries, currently with
   ulcer on medial plantar right foot previously followed by podiatry and
   vascular.
   - Wound care per podiatry/vascular recs - clean dry dressing
   .
   #  Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   - Diabetic diet, RISS
   .
   # ? Mesothelioma: Pleural thickening (in the setting of prior asbestos
   exposure) noted on [**2174-11-6**] Chest CT, concerning for mesothelioma.
   Bilateral calcified pleural plaques consistent with possible asbestosis
   on CXR [**2174-11-17**].
   - Follow-up with Thoracic Surgery, Dr. [**First Name (STitle) **] as outpatient
   .
   # Depression: Given multiple medical issues and procedures, coping may
   be difficult.
   - Continue celexa 20 mg daily
   - Ask social work to check-in
   .
   FEN: dysphagia diet, cannot tolerate thin liquids yet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   DVT ppx: HSQ
   Bowel regimen: senna, colace, bisacodyl PRN
   GI PPx: IV PPI [**Hospital1 **]
   Pain management with: PO oxycodone + Zofran
   .
   CODE: Confirmed full by primary medicine team
   .
   COMM: [**Name (NI) 53**], Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].  Also, pls contact
   PCP [**First Name8 (NamePattern2) 6585**] [**Last Name (NamePattern1) 6586**] ([**Company 319**]) or [**Name (NI) 263**] [**Last Name (NamePattern1) 10789**] (NP). (Will call PCP when [**Name Initial (PRE) **]/c
   to rehab.), previously intern and resident ([**Numeric Identifier 10790**], [**Numeric Identifier 10791**])
   .
   DISPO: Return to medicine team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-21**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: